US07026335B2
Preparation of 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid (58):
To a solution of 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid methyl ester, 57, (456 mg, 1 mmol) in THF/H2O (2:1) at RT is added LiOH (1.5 equiv.). The reaction is stirred at RT until the starting material is consumed. The solvent is removed in vacuo, and the residue is purified by reverse phase HPLC to provide the desired product.

reactant | 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid methyl ester | COC(C(C(=O)N1CCC(CC1)(CN1N=CN=C1)C1CCCCC1)CC1=CC=C(C=C1)F)=O | C25H33FN4O3
reactant | LiOH | 1.5 equiv. | [Li+].[OH-]
solvent | THF H2O | C1CCOC1.O
product | 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid | C1(CCCCC1)C1(CCN(CC1)C(C(C(=O)O)CC1=CC=C(C=C1)F)=O)CN1N=CN=C1 | C24H31FN4O3
